US03950393
4-Acetylamino-3-tert.butyl-N-cyclohexyl-N-methyl-benzylamine by method A
48 gm of N-methyl-cyclohexylamine were added to 56 gm of 4-acetylamino-3-tert.butyl-benzyl bromide in 500 ml of chloroform, and the mixture was refluxed for 1.5 hours. Subsequently, the reaction mixture was extracted three times with water, and the organic phase was evaporated. The residue was purified column-chromatographically on silicagel with chloroform/methanol (5:1), and 4-acetylamino-3-tert.butyl-N-cyclohexyl-N-methyl-benzylamine hydrochloride, m.p. 240°-243°C (decomp.), was crystallized from a solution of the purified base in absolute ethanol/ether by addition of absolute ethanolic hydrochloric acid.

reactant | N-methyl-cyclohexylamine | 48 gm | CNC1CCCCC1 | C7H15N
reactant | 4-acetylamino-3-tert.butyl-benzyl bromide | 56 gm | C(C)(=O)NC1=C(C=C(CBr)C=C1)C(C)(C)C | C13H18BrNO
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Acetylamino-3-tert.butyl-N-cyclohexyl-N-methyl-benzylamine | C(C)(=O)NC1=C(C=C(CN(C)C2CCCCC2)C=C1)C(C)(C)C | C20H32N2O
